US06090804
1-[5-(5-Amino-1H-1,2,4-triazol-3-yl)-2-thenyl]hexahydro-1H-azepine
500 ml of 1,3-dimethyl-2-imidazolidinone and 18.0 g (163.2 mM) of aminoguanidine hydrochloride were added to 24.0 g (81.6 mM) of 5-(hexahydro-1H-azepin-1-yl)methyl-2-thiophenecarbonyl chloride, and the mixture was stirred at room temperature for 1 hour. Then, 16.3 g (60% oil, 408 mM) was added and the mixture was stirred overnight at 130° C. The reaction solution was cooled to room temperature, 50 ml of water and 500 ml of n-hexane were added to effect separation of layers. To the resulting lower layer was added 1,000 ml of saturated brine, and then the mixture was extracted seven times with 500 ml of ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate, concentrated under a reduced pressure, and 1,000 ml of acetonitrile was added. With ice-cooling, 150 ml of 4 N hydrochloric acid/ethyl acetate was added, and the thus precipitated crystals were collected by filtration. The resulting crystals were added to 200 ml of 1 N sodium hydroxide, extracted three times with 200 ml of ethyl acetate, dried over anhydrous sodium sulfate and then concentrated to 1/10 volume under a reduced pressure. The thus precipitated crystals were collected by filtration to give 10.4 g (51% in yield) of the title compound.

reactant | 1,3-dimethyl-2-imidazolidinone | 500 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | aminoguanidine hydrochloride | 163.2 mM, 18.0 g | C(=N)(N)NN.Cl
reactant | 5-(hexahydro-1H-azepin-1-yl)methyl-2-thiophenecarbonyl chloride | 81.6 mM, 24.0 g | N1(CCCCCC1)CC1=CC=C(S1)C(=O)Cl | C12H16ClNOS
reactant | water | 50 ml | O | H2O
solvent | n-hexane | 500 ml | CCCCCC | C6H14
product | 1-[5-(5-Amino-1H-1,2,4-triazol-3-yl)-2-thenyl]hexahydro-1H-azepine | NC1=NC(=NN1)C1=CC=C(S1)CN1CCCCCC1 | C13H19N5S
